US07241775B2
Intermediate 1: 1-(3,5-bis(trifluoromethyl)phenyl)ethanone
5.16 g (20 mmol) of 3,5-bis(trifluoromethyl)benzoic acid were dissolved in 100 ml of abs. THF and admixed at 0° C. with 31.25 ml of a 1.6 M solution of methyllithium in diethyl ether. After the mixture had been stirred at room temperature for 5 hours, excess methyllithium was hydrolyzed by adding H2O and the solvent was removed in vacuo. The residue was taken up in dichloromethane and washed with saturated NaHCO3 solution. The organic phase was removed, dried over MgSO4 and concentrated. Chromatography on silica gel afforded 3.97 g of the title compound.

reactant | 3,5-bis(trifluoromethyl)benzoic acid | 20 mmol, 5.16 g | FC(C=1C=C(C(=O)O)C=C(C1)C(F)(F)F)(F)F | C9H4F6O2
reactant | THF | C1CCOC1 | C4H8O
reactant | methyllithium | C[Li]
reactant | H2O | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-(3,5-bis(trifluoromethyl)phenyl)ethanone | 3.97 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C)=O)(F)F | C10H6F6O
